US08461107B2
Step 1: Methyl (1R,14R,18R,22S,25S)-22-cyclopentyl-7,20,23-trioxo-2,19-dioxa-8,21,24-triazatetracyclo[22.2.1.03,8.014,18]heptacosa-3,5-diene-25-carboxylate
The title compound was prepared in a similar manner as Example 13 Step 1, utilizing methyl (1R,10E, and 10Z,14S,18R,22S,25S)-22-cyclopentyl-7,20,23-trioxo-2,19-dioxa-8,21,24-triazatetracyclo[22.2.1.03,8.014,18]heptacosa-3,5,10-triene-25-carboxylate and replacing THF with ethanol as the solvent to give a 94% yield. LCMS (ES+) m/z 544.3 (M+H)+.

reactant | 22-cyclopentyl-7,20,23-trioxo-2,19-dioxa-8,21,24-triazatetracyclo[22.2.1.03,8.014,18]heptacosa-3,5,10-triene-25-carboxylate | C1(CCCC1)C1NC(OC2CCCC2CCC=CCN2C(C=CC=C2OC2CC(N(C1=O)C2)C(=O)[O-])=O)=O
reactant | ethanol | C(C)O | C2H6O
product | Methyl (1R,14R,18R,22S,25S)-22-cyclopentyl-7,20,23-trioxo-2,19-dioxa-8,21,24-triazatetracyclo[22.2.1.03,8.014,18]heptacosa-3,5-diene-25-carboxylate | 94% yield | C1(CCCC1)[C@@H]1NC(O[C@@H]2CCC[C@H]2CCCCCN2C(C=CC=C2O[C@@H]2C[C@H](N(C1=O)C2)C(=O)OC)=O)=O | C29H41N3O7
